US07572805B2
(3aS,9bR)-8-Ethyl-6-fluoro-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride
To a solution of (3aS,9bR)-tert-butyl 8-ethyl-6-fluoro-5-oxo-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate, the second eluting peak from Example 47, Part D, (60 mg, 0.18 mmol) in 2 mL of diethyl ether was added 1 mL of 12 N HCl. The resulting mixture was stirred vigorously for 5 min at ambient temperature and then was concentrated and dried in vacuo. The resulting white solid was triturated twice with diethyl ether and dried in vacuo to afford 35 mg (71%) of the title compound of Example 48 as a white solid. 1H NMR (DMSO-D6): δ 10.12 (broad s, 1H), 10.00 (broad s, 1H), 8.64 (s, 1H), 7.09 (d, 1H), 6.96 (s, 1H), 3.88-3.82 (m, 1H), 3.61-3.55 (m, 1H), 3.48-3.43 (m, 1H), 3.26-3.20 (m, 1H), 3.18-3.12 (m, 1H), 3.09-3.02 (m, 1H), 2.63 (q, 2H, J=7.7 Hz), 1.18 (t, 3H, J=7.7 Hz). LRMS (ESI): 235.2 (M+H)+.

reactant | (3aS,9bR)-tert-butyl 8-ethyl-6-fluoro-5-oxo-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate | C(C)C1=CC=2[C@H]3[C@H](NC(C2C(=C1)F)=O)CN(C3)C(=O)OC(C)(C)C | C18H23FN2O3
reactant | HCl | 12 N, 1 mL | Cl | ClH
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | (3aS,9bR)-8-Ethyl-6-fluoro-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride | 35 mg, 71% | Cl.C(C)C1=CC=2[C@H]3[C@H](NC(C2C(=C1)F)=O)CNC3 | InChI=1S/C13H15FN2O.ClH/c1-2-7-3-8-9-5-15-6-11(9)16-13(17)12(8)10(14)4-7;/h3-4,9,11,15H,2,5-6H2,1H3,(H,16,17);1H/t9-,11+;/m0./s1
